US06872730B2
7-Ethoxycarbonylmethyl-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester (synthetic methodology described in WO 00/33838) (6.11 g, 19.0 mmol) was dissolved in tetrahydrofuran (40 ml) at room temperature. The solution was place under argon. Lithium borohydride [2M in tetrahydrofuran](22.8 mmol, 11.43 mL) was carefully added and the reaction was refluxed overnight (16 h). The mixture was poured into a solution of saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered, and evaporated under vacuum to give a crude mixture, which was purified via column chromatography to give 7-(2-hydroxy-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester (49% yield). 1H NMR (Cl3CD), δ: 7.30 (d, 1H, J=7.6 Hz), 7.76 (d, 1H, J=7.6 Hz), 3.98 (m, 2H), 3.78 (m, 2H), 2.92 (m, 2H), 2.71 (m, 2H), 1.92 (m, 2H), 1.54 (s, 9H).

reactant | 7-Ethoxycarbonylmethyl-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 19.0 mmol, 6.11 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CC(=O)OCC | C17H24N2O4
reactant | Lithium borohydride | 22.8 mmol, 2M, 11.43 mL | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-(2-hydroxy-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 49% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCO | C15H22N2O3
